US06015818
To a suspension of sodium hydride (59.5 mg) in N,N-dimethylformamide (0.5 ml) was added a solution of 8-hydroxy-2-methyl-4-(2-pyridylmethoxy)quinoline (600 mg) in N,N-dimethylformamide (5 ml) in ice water bath under nitrogen atmosphere, and the mixture was stirred for 30 minutes at the same condition. To the mixture was dropwise added a solution of 2,6-dichloro-3-[N-methyl-N-(phthalimidoacetyl)amino]benzyl methanesulfonate (1 g) in N,N-dimethylformamide (25 ml) in ice water bath under nitrogen atmosphere, and the mixture was stirred for 2 hours at the same temperature and for 1 day at ambient temperature. The reaction mixture was poured into water and extracted with chloroform. The organic layer was washed with water, saturated sodium bicarbonate solution and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel (chloroform--methanol) to give 8-[2,6-dichloro-3-[N-methyl-N-(phthalimidoacetyl)amino]benzyloxy]-2-methyl-4-(2-pyridylmethoxy)quinoline (772 mg) as amorphous powder.

reactant | sodium hydride | 59.5 mg | [H-].[Na+]
reactant | 8-hydroxy-2-methyl-4-(2-pyridylmethoxy)quinoline | 600 mg | OC=1C=CC=C2C(=CC(=NC12)C)OCC1=NC=CC=C1 | C16H14N2O2
reactant | 2,6-dichloro-3-[N-methyl-N-(phthalimidoacetyl)amino]benzyl methanesulfonate | 1 g | CS(=O)(=O)OCC1=C(C(=CC=C1Cl)N(C(CN1C(C=2C(C1=O)=CC=CC2)=O)=O)C)Cl | C19H16Cl2N2O6S
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 8-[2,6-dichloro-3-[N-methyl-N-(phthalimidoacetyl)amino]benzyloxy]-2-methyl-4-(2-pyridylmethoxy)quinoline | 772 mg | ClC1=C(COC=2C=CC=C3C(=CC(=NC23)C)OCC2=NC=CC=C2)C(=CC=C1N(C(CN1C(C=2C(C1=O)=CC=CC2)=O)=O)C)Cl | C34H26Cl2N4O5
